US07622589B2
65A) 2-Bromo-4-tert-butyl-1-ethenylbenzene
To a stirred suspension of methyltriphenylphosphonium bromide (12.3 g, 33.7 mmol) in anhydrous THF (40 ml) was added n-butyl lithium (1.60 mol/l, hexane solution) (33.7 mmol, 21.1 ml) at 0° C. After 30 minutes at 0° C., to this was added 2-bromo-4-tert-butylbenzaldehyde (4.06 g, 16.8 mmol)(prepared according to J. Med. Chem. 2005, 48, 71-90) in anhydrous THF (10 ml) at 0° C. The reaction mixture was stirred at ambient temperature for 3 hours. The mixture was quenched with saturated ammonium chloride solution and extracted with EtOAc. The combined solution was washed with brine, dried over sodium sulfate and concentrated in vacuo to give the crude product. The crude product was purified by column chromatography on silica gel, eluting with hexane, to afford the title compound (3.27 g, 81%) as a colorless oil.

reactant | n-butyl lithium | 33.7 mmol, 1.60 mol/l, 21.1 ml | C(CCC)[Li]
reactant | 2-bromo-4-tert-butylbenzaldehyde | 16.8 mmol, 4.06 g | BrC1=C(C=O)C=CC(=C1)C(C)(C)C | C11H13BrO
catalyst | methyltriphenylphosphonium bromide | 33.7 mmol, 12.3 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Bromo-4-tert-butyl-1-ethenylbenzene | 3.27 g, 81% | BrC1=C(C=CC(=C1)C(C)(C)C)C=C | C12H15Br
